US20010027196A1
To a stirred solution of 1.17 g (3.74 mmol) 2-amino-4-(5-bromo-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile in 15 ml DMF at room temperature were added 343 mg (0.37 mmol) tris(dibenzylideneacetone)dipalladium(O) and 287 mg (0.94 mmol) triphenylarsine. Carbon monoxide was bubbled through the reaction mixture for 10 min, then 2.61 ml (18.7 mmol) triethylamine and 10.9 ml (187 mmol) ethanol were added. The reaction mixture was then heated at 90° C. for 16 hours under a carbon monoxide atmosphere (balloon). The reaction mixture was then concentrated in vacuo. Flash chromatography (1/1 ethyl acetate/hexane then ethyl acetate) afforded 70 mg (6%) 5-(2-amino-5-cyano-6-methylsulfanyl-pyrimidin-4-yl)-furan-2-carboxylic acid ethyl ester as a yellow crystalline solid. EI-MS m/e (%): 304 (M+, 95), 303 ([M—H]+, 100), 275 (32), 259 (93), 231 (72), 202 (32).

reactant | 2-amino-4-(5-bromo-furan-2-yl)-6-methylsulfanyl-pyrimidine-5-carbonitrile | 3.74 mmol, 1.17 g | NC1=NC(=C(C(=N1)C=1OC(=CC1)Br)C#N)SC | C10H7BrN4OS
reactant | triphenylarsine | 0.94 mmol, 287 mg | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | triethylamine | 18.7 mmol, 2.61 ml | C(C)N(CC)CC | C6H15N
reactant | ethanol | 187 mmol, 10.9 ml | C(C)O | C2H6O
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium(O) | 0.37 mmol, 343 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 5-(2-amino-5-cyano-6-methylsulfanyl-pyrimidin-4-yl)-furan-2-carboxylic acid ethyl ester | 70 mg, 6% | C(C)OC(=O)C=1OC(=CC1)C1=NC(=NC(=C1C#N)SC)N | C13H12N4O3S
